US20010047031A1
To a room temperature mixture containing allylbenzene (1.84 g, 15.6 mmol), zinc-copper couple (5.1 g, 78 mmol) and diethylether (60 ml) was added dropwise a solution of trichloroacetylchloride (2.96 ml, 26.5 mmol) and phosphorus oxychloride (2.46 ml, 26.5 mmol) in diethylether (20 ml). The reaction mixture was stirred at room temperature for 1 hour, filtered and the filtrate was partially concentrated. The residue was neutralized with saturated NaHCO3. The aqueous phase was extracted with diethylether. The combined organic phases were washed successively with H2O and brine, dried over Na2SO4, and concentrated. The residue was chromatographed over silica gel (hexane) to provide (RS)-3-benzyl-2,2-dichlorocyclobutanone (0.71 g, 20%) as a yellow oil, MS: m/e=228.1 (M−H+).

reactant | allylbenzene | 15.6 mmol, 1.84 g | C(C=C)C1=CC=CC=C1 | C9H10
reactant | trichloroacetylchloride | 26.5 mmol, 2.96 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | phosphorus oxychloride | 26.5 mmol, 2.46 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
catalyst | zinc-copper couple | 78 mmol, 5.1 g | [Cu].[Zn]
solvent | diethylether | 60 ml | C(C)OCC | C4H10O
product | (RS)-3-benzyl-2,2-dichlorocyclobutanone | 0.71 g, 20% | C(C1=CC=CC=C1)C1C(C(C1)=O)(Cl)Cl | C11H10Cl2O
